US04678783
To 1200 ml of thionyl chloride were added 150 g of 5-isoquinolinesulfonic acid and 0.4 ml of N,Ndimethylformamide. Then, the resulting mixture was refluxed while heating at 80° to 85 ° C for 3 hours, followed by removal of the thionyl chloride under reduced pressure. Subsequently, 300 ml of dichloromethane was added to the reaction mixture to precipitate crystals. The precipitated crystals were separated by filtration, washed with 100 ml of dichloromethane, and then dried under reduced pressure to obtain 170 g of 5-isoquinolinesulfonyl chloride hydrochloride.

reactant | 5-isoquinolinesulfonic acid | 150 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H7NO3S
reactant | thionyl chloride | 1200 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-isoquinolinesulfonyl chloride hydrochloride | 170 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | InChI=1S/C9H6ClNO2S.ClH/c10-14(12,13)9-3-1-2-7-6-11-5-4-8(7)9;/h1-6H;1H
